US08222248B2
A freshly prepared solution of (3,4-diamino-phenyl)-carbamic acid ethyl ester in DMSO (0.2 M, 0.10 mL) was placed in a vial. To it was added 2-chloro-benzaldehyde (0.2 M in toluene, 0.12 mL), followed by FeCl3 (0.02 M in THF, 0.050 mL). The mixture was stirred in open air at ambient temperature overnight. The mixture was then diluted by MeOH and the whole was loaded onto a solid phase extraction (SPE) cartridge that contained strong cation exchange (SCX) (1 g media in 6 mL cartridge, United Chemical Technology). Wash-to-waste (5 mL MeOH) was followed by elute-to-collect (5 mL 20:2:1 ethyl acetate-MeOH-Et3N) and, after evaporation of volatiles, the crude was further purified by silica gel column chromatography to give [2-(2-chloro-phenyl)-3H-benzoimidazol-5-yl]-carbamic acid ethyl ester: MS (m/z) 315.97 (M+1).

reactant | (3,4-diamino-phenyl)-carbamic acid ethyl ester | C(C)OC(NC1=CC(=C(C=C1)N)N)=O | C9H13N3O2
reactant | 2-chloro-benzaldehyde | 0.2 M, 0.12 mL | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | MeOH | CO | CH4O
solvent | DMSO | 0.2 M, 0.10 mL | CS(=O)C | C2H6OS
product | [2-(2-chloro-phenyl)-3H-benzoimidazol-5-yl]-carbamic acid ethyl ester | C(C)OC(NC1=CC2=C(N=C(N2)C2=C(C=CC=C2)Cl)C=C1)=O | C16H14ClN3O2
